US03932663
4'-Chlorobiphenyl-4-carboxylic acid chloride (Musante and Parrini, Gazz, Chim. ital., 1949, 49, 453) was reacted with chlorobenzene by the method of Example 7, to give 4-chlorophenyl 4'-chloro-4-biphenylyl ketone identical with that described in Example 8.

reactant | 4'-Chlorobiphenyl-4-carboxylic acid chloride | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)Cl | C13H8Cl2O
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 4-chlorophenyl 4'-chloro-4-biphenylyl ketone | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)Cl | C19H12Cl2O
